US08975254B2
a) Ethyl 2-(1H-imidazol-4-yl)thiazole-4-carboxylate
1H-Imidazole-4-carbothioamide (1 g, 7.86 mmol) and ethyl bromopyruvate (0.987 ml, 7.86 mmol) were dissolved in ethanol (20 ml). The resulting mixture was refluxed for 1.5 hours. The mixture was kept at 0° C. for an hour and filtered. Both the filtered precipitate and filtrate contained the product and both were evaporated. The filtrate was triturated twice from ethanol. In the end all precipitates were combined. LC-MS: [M+1]=224.25.

reactant | 1H-Imidazole-4-carbothioamide | 7.86 mmol, 1 g | N1C=NC(=C1)C(N)=S | C4H5N3S
reactant | ethyl bromopyruvate | 7.86 mmol, 0.987 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 2-(1H-imidazol-4-yl)thiazole-4-carboxylate | N1C=NC(=C1)C=1SC=C(N1)C(=O)OCC | C9H9N3O2S
